US05374504
To a well-stirred suspension of 6.93 grams (40 mmol) of sodium hydrosulfite (Na2S2O4) in 70 ml N, N-dimethylformamide (DMF) was added 4.85 grams (31 mmol) of 4-methoxy benzyl chloride. The mixture was stirred for five hours at room temperature, then brought to 85° C. for 24 hours. The mixture was poured onto 250 ml of crushed ice, and the total volume brought to 700 ml with water. The hygroscopic solid product was isolated by filtration and recrystallized from toluene to give 2.9 grams (9.5 mmol, 61% yield) of bis(4-methoxy benzyl) sulfone as white plates (mp 182° C.).

reactant | sodium hydrosulfite | 40 mmol, 6.93 grams | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-methoxy benzyl chloride | 31 mmol, 4.85 grams | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | O | H2O
reactant | N, N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | bis(4-methoxy benzyl) sulfone | 9.5 mmol, 2.9 grams, 61% yield | COC1=CC=C(CS(=O)(=O)CC2=CC=C(C=C2)OC)C=C1 | C16H18O4S
